US05209868
4-(trans-4-Propylcyclohexyl)-1-trifluoromethylcyclohex-1-ene
A mixture of 10 mmol of 4-(trans-4-propylcyclohexyl)cyclohexanone, 11 mmol of trimethyl(trifluoromethyl)silane, 10 mmol of tetrabutylammonium fluoride and 50 ml of THF is stirred for 2 hours at 0° C. After customary work-up, the crude product is dissolved in 20 mml of THF, 10 mmol of DAST are added, and the mixture is heated to boiling. After customary work-up, the crude product is purified by chromatography and crystallization.

reactant | 4-(trans-4-propylcyclohexyl)cyclohexanone | 10 mmol | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C15H26O
reactant | trimethyl(trifluoromethyl)silane | 11 mmol | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 10 mmol | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | DAST | 10 mmol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-Propylcyclohexyl)-1-trifluoromethylcyclohex-1-ene | C(CC)[C@@H]1CC[C@H](CC1)C1CC=C(CC1)C(F)(F)F | C16H25F3
